US06730707B2
Oxalyl chloride (4.4 mmol) is added dropwise to a suspension of 2-methyl-5-nitroindole (1.4 mmol) and phthalimide (0.1 g) in ether (10 mL) and the mixture stirred 48 h at 24° C. The reaction vessel is then equipped with a Dewar condenser, chilled to 0° C., and anhydrous ammonia bubbled through the mixture during 1.5 h. The gas and solvent are removed in vacuo. The resulting tan solid is triturated with water, filtered, and the retentate washed with toluene. The solid is dried, affording (2-amino)-1-(5-nitro-1H-indol-3-yl)-ethane-1,2-dione. A portion of this compound (0.59 mmol is taken into THF (15 mL) and treated with borane-THF (2.4 mL of 1 M solution) 16 h at 28° C. The reaction is neutralized with sodium bicarbonate and extracted with ethyl acetate. The ethyl acetate extract is dried in vacuo, redissolved in ethanol (10 mL) and refluxed in the presence of cesium fluoride (360 mg) and sodium carbonate (312 mg). The mixture is filtered through Celite, evaporated and the residue chromatographed on silica gel using chloroform-methanol-ammonia (8:2:0.2) as eluent affording 2-(2-methyl-5-nitro-1H-indol-3-yl)-ethylamine. This compound is acetylated, hydrogenated and transformed to the carbamic acid methyl ester as above.

reactant | Oxalyl chloride | 4.4 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-methyl-5-nitroindole | 1.4 mmol | CC=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C9H8N2O2
reactant | phthalimide | 0.1 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | ether | 10 mL | CCOCC | C4H10O
product | (2-amino)-1-(5-nitro-1H-indol-3-yl)-ethane-1,2-dione | NC(C(=O)C1=CNC2=CC=C(C=C12)[N+](=O)[O-])=O | C10H7N3O4
